US08609849B1
4-(2-Fluorophenyl)-4-hydroxypiperidine-1-sulfonamide.
To a stirring solution of 4-(2-fluoro-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (1.2 g, 4.06 mmol) in ethyl acetate (5 mL) was added hydrogen chloride (15 mL, 4N in 1,4-dioxane) and the resulting solution was stirred for 3 hours during which time a precipitate formed. The reaction mixture was concentrated at reduced pressure to give the crude product, 4-(2-fluoro-phenyl)-piperidin-4-ol hydrochloride, which was used in the next step without purification. To a solution of chlorosulfonyl isocyanate (0.35 mL, 4.06 mmol) in dichloromethane (10 mL) at 3° C. was added tert-butanol (0.39 mL, 4.06 mmol). After 25 minutes, pyridine (0.72 mL, 8.9 mmol) was added and the resulting mixture was stirred for 40 minutes during which time a precipitate formed. This slurry was added via pipette to a solution of crude 4-(2-fluoro-phenyl)-piperidin-4-ol hydrochloride (940 mg, 4.06 mmol) and triethylamine (0.62 mL, 4.47 mmol) in dichloromethane (6 mL) at 3° C. The resulting mixture was allowed to warm to ambient temperature over 4 hours. The reaction mixture was diluted with dichloromethane (100 mL) and washed with dilute hydrochloric acid (40 mL, 0.1N) followed by saturated aqueous sodium chloride (30 mL). The organic layer was concentrated at reduce pressure. The resulting oil was dissolved in ethyl acetate (5 mL) and to this solution was added hydrogen chloride (15 mL, 4N in 1,4-dioxane) and the resulting solution was stirred for 5 hours. The reaction mixture was concentrated at reduced pressure and the resulting solid was purified by column chromatography through a silica gel cartridge (12 g) eluting with ethyl acetate/hexane (1:9 to 2:5) to give the product as a white solid (420 mg, 38% over 3 steps). 1H NMR (DMSO-d6) δ 7.65 (m, 1H,), 7.30 (m, 1H), 7.24-7.09 (m, 2H), 6.75 (s, 2H), 5.28 (s, 1H), 3.31 (m, 2H), 2.92 (m, 2H), 2.22 (m, 2H), 1.68 (m, 2H). MS (ES+)=275 (MH)+.

reactant | chlorosulfonyl isocyanate | 4.06 mmol, 0.35 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | tert-butanol | 4.06 mmol, 0.39 mL | C(C)(C)(C)O | C4H10O
reactant | pyridine | 8.9 mmol, 0.72 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-(2-fluoro-phenyl)-piperidin-4-ol hydrochloride | 4.06 mmol, 940 mg | Cl.FC1=C(C=CC=C1)C1(CCNCC1)O
reactant | triethylamine | 4.47 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(2-Fluorophenyl)-4-hydroxypiperidine-1-sulfonamide | 420 mg, 38% | FC1=C(C=CC=C1)C1(CCN(CC1)S(=O)(=O)N)O | C11H15FN2O3S
